US07425568B2
5-(4Methoxy-2-nitrophenoxy)-2-phenylindan was prepared as described for 6-(4-methoxy-2-nitrophenoxy)-2-phenylchroman in Example 3(a) using 575 mg of 2-phenylindan-5-ol. 1H-NMR (400 MHz, d6-DMSO): 7.60 (d, 1H, J 3.1 Hz), 7.35-7.28 (m, 5H), 7.25-7.16 (m, 3H), 6.86 (d, 1H, J 2.3 Hz), 6.78 (dd, 1H, J 2.3, 8.2 Hz), 3.84 (s, 3H), 3.67 (k, 1H, J 8.3 Hz), 3.25 (dd, 2H, J 8.3, 15.7 Hz), 2.95 (m, 2H). (M)+=361 (60%), 209 (100%)

reactant | 6-(4-methoxy-2-nitrophenoxy)-2-phenylchroman | COC1=CC(=C(OC=2C=C3CCC(OC3=CC2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C22H19NO5
reactant | 2-phenylindan-5-ol | 575 mg | C1(=CC=CC=C1)C1CC2=CC=C(C=C2C1)O | C15H14O
product | 5-(4Methoxy-2-nitrophenoxy)-2-phenylindan | COC1=CC(=C(OC=2C=C3CC(CC3=CC2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C22H19NO4
